US07465726B2
4-[4-(1-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide
To a suspension of (1-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride (166.8 mg, 0.3631 mmol, 1 eq) in anhydrous DMF (17 mL), N,N-diisopropylethylamine (DiPEA) (260 μL, 4.1 eq) was added at rt. The solution was then cooled to −20° C., after which tert-butyl isocyanate (36.5 mg, 0.368 mmol, 1 eq in anhydrous DMF (2 mL) was added. The solution was stirred at rt for 1 h. The reaction was cooled to 0° C., after which additional tert-butyl isocyanate (11.4 mg, 0.115 mmol, 0.3 eq) in anhydrous DMF (1 mL) was added. The reaction was stirred again at rt for 4 h. The reaction was quenched with MeOH, concentrated in vacuo, and dried under vacuum pressure. The crude material was adsorbed onto Hydromatrix, dry loaded, and purified by chromatography on silica gel [Jones Flashmaster, 5 g/25 mL cartridge, eluting with MeOH:DCM 1%→5%]. Fractions containing product were combined and concentrated in vacuo. The material was further purified by trituration in MeOH, yielding the title compound as an off-white solid. 1H NMR (400 MHz, DMSOd6): δ=1.28 (s, 9H), 2.44 (s, br, 2H), 3.52 (t, J=5.6 Hz, 2H), 3.99 (d, J=2.0 Hz, 2H), 4.03 (s, 3H), 5.77 (s, —NH), 6.40 (s, br, 1H), 6.75 (s, 1H), 7.60 (d, J=8.8 Hz, 1H), 7.69 (dd, J=8.8, 2.0 Hz, 1H), 8.01 (s, 1H), 8.26 (s, 1H), 8.39 (s, 1H), 9.32 (s, —NH), 11.89 (s, —NH). MS (ES+): m/z 445.07 (100) [MH+]. HPLC: tR=2.29 min (ZQ2000, polar—5 min).

reactant | (1-methyl-1H-indazol-5-yl)-[6-(1,2,3,6-tetrahydropyridin-4-yl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl]-amine tris-hydrochloride | 0.3631 mmol, 166.8 mg, 1 eq | Cl.Cl.Cl.CN1N=CC2=CC(=CC=C12)NC=1C2=C(N=CN1)NC(=C2)C=2CCNCC2
reactant | N,N-diisopropylethylamine | 260 μL, 4.1 eq | C(C)(C)N(C(C)C)CC | C8H19N
reactant | tert-butyl isocyanate | C(C)(C)(C)N=C=O | C5H9NO
reactant | tert-butyl isocyanate | 0.115 mmol, 11.4 mg, 0.3 eq | C(C)(C)(C)N=C=O | C5H9NO
solvent | DMF | 17 mL | CN(C)C=O | C3H7NO
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 4-[4-(1-Methyl-1H-indazol-5-ylamino)-7H-pyrrolo[2,3-d]pyrimidin-6-yl]-3,6-dihydro-2H-pyridine-1-carboxylic acid tert-butylamide | C(C)(C)(C)NC(=O)N1CCC(=CC1)C1=CC2=C(N=CN=C2NC=2C=C3C=NN(C3=CC2)C)N1 | C24H28N8O
